US08791130B2
A mixture of N2-(4-bromo-2-methoxyphenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine (0.365 g, 1 mmol), Pd(PPh3)4 (115 mg, 0.1 mmol), K2CO3 (0.415 g, 3 mmol) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.415 g, 2 mmol) in dioxane (10 mL) and water (1.25 mL) was degassed under a stream of nitrogen for 10 min. The reaction tube was sealed and the mixture irradiated in the microwave at 100° C. for 20 min. The mixture was cooled and concentrated under reduced pressure. The residue was partitioned between ethyl acetate (20 mL) and water (20 mL) and the product extracted into ethyl acetate (2×20 mL). The combined organics were passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification of the residue via silica gel column chromatography (0-100% ethyl acetate/isohexane) afforded a residue that was triturated with diethyl ether yielding N2-(2-methoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine as an off-white solid (94 mg, 25%). LCMS (10 cm_ESCI_Formic_MeCN): [MH+]=379 at 3.11 min. 1H NMR (400 MHz, CDCl): δ 8.49 (d, J=8.4, 1H); 8.17 (s, 1H); 7.76-7.68 (m, 2H); 7.58 (s, 1H); 7.10 (dd, J=8.4, 1.9, 1H); 6.98 (d, J=1.9, 1H); 5.20 (s, 1H); 3.95 (s, 6H); 3.12 (d, J=4.7, 3H).

reactant | N2-(4-bromo-2-methoxyphenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 1 mmol, 0.365 g | BrC1=CC(=C(C=C1)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC | C13H12BrF3N4O
reactant | K2CO3 | 3 mmol, 0.415 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2 mmol, 0.415 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.25 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.1 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N2-(2-methoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 94 mg, 25% | COC1=C(C=CC(=C1)C=1C=NN(C1)C)NC1=NC=C(C(=N1)NC)C(F)(F)F | C17H17F3N6O
